US04981999
Example 1 was repeated using tetrabromophthalic anhydride with 72 wt % zinc and 20% aqueous NaOH. After one hour at 60° C., 97% phthalic acid was produced. This example shows that the process of this invention is ineffective in selectively removing bromine.

reactant | tetrabromophthalic anhydride | BrC=1C(=C(C(=C2C1C(=O)OC2=O)Br)Br)Br | C8Br4O3
reactant | NaOH | [OH-].[Na+]
catalyst | zinc | [Zn] | Zn
product | phthalic acid | 97% | C(C=1C(C(=O)O)=CC=CC1)(=O)O | C8H6O4
